US03968117
2,6-Dimethyl-4-[3-methoxy-4-(3-dimethylaminopropoxy)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester. ##SPC26##
A solution of 2.3 g of sodium in 100 ml of ethanol is added to a warm solution of 37.5 g of 2,6-dimethyl-4-(3-methoxy-4-hydroxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester (melting point 172°C) in 300 ml of ethanol. The mixture is heated at reflux and 15 g of 3-dimethylaminopropyl chloride are added dropwise. After refluxing for several hours, the mixture is filtered hot, the residue being washed with alcohol, and the filtrate is evaporated in vacuo to yield yellow crystals of melting point 62°C after recrystallization from ligroin-petroleum ether.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 2,6-dimethyl-4-(3-methoxy-4-hydroxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 37.5 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=C(C=C1)O)OC)C(=O)OCC)C)C | C20H25NO6
reactant | 3-dimethylaminopropyl chloride | 15 g | CN(CCCCl)C | C5H12ClN
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2,6-Dimethyl-4-[3-methoxy-4-(3-dimethylaminopropoxy)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=C(C=C1)OCCCN(C)C)OC)C(=O)OCC)C)C | C25H36N2O6
